US07560558B2
Compound 32: 1-{2-[(6,7-Dimethoxy-4-quinolyl)oxy]-4-methylphenyl}-1-ethanone
4-Chloro-6,7-dimethoxyquinoline (116 mg), 2-hydroxy-4-methylacetophenone (300 mg), and 4-dimethylaminopyridine (244 mg) were suspended in o-dichlorobenzene (1 ml), and the suspension was stirred at 120° C. overnight. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give the title compound (37 mg, yield 6%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 116 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2-hydroxy-4-methylacetophenone | 300 mg | CC1=CC(=C(C=C1)C(=O)C)O | C9H10O2
catalyst | 4-dimethylaminopyridine | 244 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 1 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-{2-[(6,7-Dimethoxy-4-quinolyl)oxy]-4-methylphenyl}-1-ethanone | 37 mg, yield 6% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=CC(=C1)C)C(C)=O | C20H19NO4
